US06352993B1
Step 4: 5,6-dimethyl-2-(4-phenylthiazol-2-yl)amino-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
A mixture solution of 5,6-dimethyl-2-(4-methylthiazol-2-yl)amino-4-chloropyrimidine (0.36 g, 1.14 mmol), 1,2,3,4-tetrahydroisoquinoline(0.16 ml, 1.25 mmol), triethylamine(0.16 ml, 1.25 mmol) and propyleneglycol(1.1 ml) was heated to 140° C., stirred for 5 hours, diluted with dichloromethane, and then washed with water. The separated organic layer was dried over anhydrous magnesium sulfate and concentrated. The resulting residue was purified by a silica gel column chromatography using, a soluton of ethyl acetate and hexane (1:3) as a eluent. After evaporating of the solvent, the residual oil was dissolved in a solution of ethyl ether and ethyl acetate and treated with ethylether saturated with hydrochloric acid. The resulting solid was filtered and dried to give 0.18 g of the titled compound.

reactant | 5,6-dimethyl-2-(4-methylthiazol-2-yl)amino-4-chloropyrimidine | 1.14 mmol, 0.36 g | CC=1C(=NC(=NC1C)NC=1SC=C(N1)C)Cl | C10H11ClN4S
reactant | 1,2,3,4-tetrahydroisoquinoline | 1.25 mmol, 0.16 ml | C1NCCC2=CC=CC=C12 | C9H11N
reactant | triethylamine | 1.25 mmol, 0.16 ml | C(C)N(CC)CC | C6H15N
reactant | propyleneglycol | 1.1 ml | C(C(C)O)O | C3H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5,6-dimethyl-2-(4-phenylthiazol-2-yl)amino-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 0.18 g, Yield: 35% | Cl.CC=1C(=NC(=NC1C)NC=1SC=C(N1)C1=CC=CC=C1)N1CC2=CC=CC=C2CC1 | InChI=1S/C24H23N5S.ClH/c1-16-17(2)25-23(28-24-26-21(15-30-24)19-9-4-3-5-10-19)27-22(16)29-13-12-18-8-6-7-11-20(18)14-29;/h3-11,15H,12-14H2,1-2H3,(H,25,26,27,28);1H
